US04833270
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A solution of 6,8 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester in a mixture of 46 ml of glacial acetic acid, 35 ml of water and 4.5 ml of concentrated sulfuric acid was refluxed for 1.5 hours. The resulting suspension was cooled in an ice bath, the solid collected, washed with cold water, dried and recrystallized from hot dimethylformamide, giving 5 g of the desired compound, mp 288°-290° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 6,8 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
reactant | water | 35 ml | O | H2O
reactant | sulfuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 46 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
